Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O+:5]=[C:4]([N:3]([C-:2]([H:11])[H:12])[H:13])[O:6][C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],10.385894112163896
[N:1](=[C:2]1/[C:3]([H:7])([H:8])[C@:4]1([C:5]#[N:6])[H:9])\[H:10]>>[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],59.3693261836672
[C-:5]#[O+:6].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.46104694063943
[C:1](/[C:2](=[C:4](\[O:5][O:3][H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8],29.96052720584781
[C:1]([C:2][C@@:3]1([H:16])[C@:4]([C:5]([H:11])([H:12])[H:13])([O:7][H:17])[C:6]1([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],31.48061126449589
[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7]>>[C:4](=[O:5])([H:7])[H:8].[N:1](=[C:2]=[O:3])[H:6],76.37933874768609
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C:3](=[O:4])([H:8])[H:9].[C:5](=[O:6])([H:7])[H:10].[O+:1]#[C-:2],57.0506480551118
[N+:1](#[C-:2])[N+:7]1=[C:3]=[C:4]([H:8])[N:5]([H:9])[N-:6]1>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,24.7994860992778
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([H:10])=[C:3]([H:11])[C:4]1([C:5]#[N:6])[H:13],101.127055719303
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[C:5](=[C:6]=[N:7][H:8])([H:12])[H:13].[N:1]#[C:2][H:9].[O:3]=[C:4]([H:10])[H:11],54.6991735926064
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N-:1]([N+:7]#[C:6][C:5]([C:4]([O+:3]=[C-:2][H:9])([H:10])[H:11])([H:12])[H:13])[H:8],112.747104808906
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5][O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9],23.360514102759602
[N:3](=[N+:4]=[N-:5])[H:7].[O:1]=[C:2]=[N:6][H:8]>>[O:1]=[c:2]1[n:3]([H:7])[n:4][n:5][n:6]1[H:8],28.488451317577507
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1](=[C:2](\[O+:3]=[C-:4][H:9])[C@@:5]1([H:10])[C:6]([H:11])([H:12])[N:7]1[H:13])\[H:8],76.5995067479938
[N:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C:6](=[N:7])[C:5]1([H:10])[H:11]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],23.5109461958409
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:9])([H:7])[H:8])=[C:6]([H:11])[H:12])[H:10]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12],72.68878098215676
[C:5](=[O:6])([H:9])[H:10].[O:1]([C:2](=[C:3]=[O:4])[H:8])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],27.724747386249007
[C:1]([N:2]([C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],51.44309319674972
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]1([H:9])=[O+:7][C-:6]([H:17])[C:5]([H:15])([H:16])[C@@:4]2([H:14])[C@:2]1([H:11])[C:3]2([H:12])[H:13].[H:8][H:10],104.26348966949
[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[O:6][C:5]([H:11])([H:12])[C:4]2([H:9])[H:10]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],45.048636352241644
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1]1/[C:2](=[N:3]\[H:8])[C@:7]1([O:6][C:5](=[C:4]([H:9])[H:10])[H:11])[H:12],69.5642991556361
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([C:2](=[O:3])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],34.3553170711659
[C:1]([C-:2]=[C:6]=[C+:7][H:15])([H:8])([H:9])[H:10].[C:3]([C:4]#[C:5][H:14])([H:11])([H:12])[H:13]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],4.923666605806702
[C:5](#[N:6])[H:9].[O:1]=[C:2]([N:4]=[C:3]=[O:7])[H:8]>>[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8],68.83218847692939
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]1=[C:2]=[C:3]([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],75.52740083399901
[C:1]([C:2]([O:3][C:5]1=[C:6]([H:14])[C:4]1([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],61.62113044612896
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:6](=[O:7])([H:13])[H:14].[N:1]([C@:2]1([O:3][H:15])[N:4]([H:10])[C:5]1([H:11])[H:12])([H:8])[H:9],75.1741749727732
